US09062061B2
2-(Homopiperazine-1-carbonyl)pyrrolo[1,2-a]quinazolin-5(4H)-one hydrochloride (Compound 5-1)
10% hydrogen chloride in methanol (3 mL) was added to a solution of 2-[4-(tert-butoxycarbonyl)homopiperazine-1-carbonyl]pyrrolo[1,2-a]quinazolin-5(4H)-one (the above Compound 1-47, 156 mg, 0.380 mmol) in methanol (1 mL), and the reaction solution was stirred overnight at room temperature. The precipitated solid was collected by filtration, and dried under reduced pressure, to obtain the title compound (102 mg, yield: 87%) as a colorless powder.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-[4-(tert-butoxycarbonyl)homopiperazine-1-carbonyl]pyrrolo[1,2-a]quinazolin-5(4H)-one | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2N(C3=CC=CC=C3C(N2)=O)C1 | C22H26N4O4
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | 2-(Homopiperazine-1-carbonyl)pyrrolo[1,2-a]quinazolin-5(4H)-one hydrochloride | 102 mg, yield: 87% | Cl.N1(CCNCCC1)C(=O)C=1C=C2N(C3=CC=CC=C3C(N2)=O)C1 | InChI=1S/C17H18N4O2.ClH/c22-16-13-4-1-2-5-14(13)21-11-12(10-15(21)19-16)17(23)20-8-3-6-18-7-9-20;/h1-2,4-5,10-11,18H,3,6-9H2,(H,19,22);1H
